US04420615
C. 1-(2-Dimethylaminoethyl)-5,7-dimethyl-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-2-one
A solution of methyl N-(3-cyano-4,6-dimethyl-2-pyridyl)-N-(2-dimethylaminoethyl)carbamate (14.8 g, 53 mmol) in glacial acetic (200 ml) containing platinum oxide catalyst (1.1 g) is hydrogenated in a Parr apparatus until two equivalents of hydrogen are taken up (20 hours). The catalyst is removed by filtration and the solvent evaporated to give a residue which is dissolved in water, made basic with sodium carbonate, and the crude product extracted into methylene chloride. This dried solution is evaporated to give a crude product (12.5 g) which is crystallized from cyclohexane to yield 7.2 g of pure title C product; m.p.: 139°-141° C.

reactant | methyl N-(3-cyano-4,6-dimethyl-2-pyridyl)-N-(2-dimethylaminoethyl)carbamate | 53 mmol, 14.8 g | C(#N)C=1C(=NC(=CC1C)C)N(C(OC)=O)CCN(C)C | C14H20N4O2
reactant | hydrogen | two equivalents | [H][H] | H2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic | 200 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
catalyst | platinum oxide | 1.1 g | [Pt]=O
solvent | water | O | H2O
product | 1-(2-Dimethylaminoethyl)-5,7-dimethyl-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidin-2-one | 12.5 g | CN(CCN1C(NCC2=C1N=C(C=C2C)C)=O)C | C13H20N4O
